US09290517B2
Step B: ethyl 2-[(3aR,6R,6aR)-6-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate
A 20 mL vessel was charged ethyl(2E)-2-[(3R,3aS,6aR)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-ylidene]acetate (45 mg, 0.137 mmol), nickel chloride hexahydrate (32.6 mg, 0.137 mmol) and ethanol (1 mL). Sodium borohydride (51.8 mg, 1.37 mmol) was added slowly and the mixture was stirred at room temperature for 1 h. The reaction was quenched with water (0.5 mL) and partitioned between water (4 mL) and ethyl acetate (10 mL). The aqueous layer was extracted with ethyl acetate (3×5 mL). The combined organic phases were dried over MgSO4, filtered and concentrated to afford the title compound. LC-MS: calculated for C1OH16O5, [M+Na]+Calc: 239.1. Found: 239.1, Rt=0.22 min (4 min run).

reactant | ethyl(2E)-2-[(3R,3aS,6aR)-3-[tert-butyl(dimethyl)silyl]oxy-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-ylidene]acetate | 0.137 mmol, 45 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]2[C@H](OC1)\C(\CO2)=C\C(=O)OCC | C16H28O5Si
reactant | Sodium borohydride | 1.37 mmol, 51.8 mg | [BH4-].[Na+]
catalyst | nickel chloride hexahydrate | 0.137 mmol, 32.6 mg | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | ethyl 2-[(3aR,6R,6aR)-6-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]acetate | O[C@@H]1CO[C@H]2[C@@H]1OCC2CC(=O)OCC | C10H16O5
